US04810806
This example illustrates a process of the invention only. A suspension of 9.6 g (0.20 mol) of 50% NaH in mineral oil in 150 mL of DMSO was stirred at 15°-20° while 35.4 g (0.20 mol) of 2-chloroethyl trifluoroacetate were added dropwise. The resulting mixture was stirred overnight while the reaction temperature was maintained below 30°. The reaction mixture was then heated to 50° at 0.33 kPa (2.5 mm) to drive off volatile products which were recovered. Fractionation of the volatiles gave 8.5 g (30% yield) of 2-trifluoromethyl-1,3-dioxolane, b.p. 87°-93°. IR (CCl4): 3300 and 2910 (sat'd CH), 1200-1100 cm-1 (CF, C--O). NMR (CCl4): 1H 5.13 (q, JHF 4 Hz, 1H, CH) and 4.07 ppm (s, 4H, ring OCH2).

reactant | NaH | 0.20 mol, 9.6 g | [H-].[Na+]
reactant | 2-chloroethyl trifluoroacetate | 0.20 mol, 35.4 g | FC(C(=O)OCCCl)(F)F | C4H4ClF3O2
solvent | DMSO | 150 mL | CS(=O)C | C2H6OS
product | 2-trifluoromethyl-1,3-dioxolane | 8.5 g, 30% yield | FC(C1OCCO1)(F)F | C4H5F3O2
